US06589978B2
(2RS,5RS)-5-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-pentan-1-ol
Reduction of (2RS,5RS)-5-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-pentanoic acid methyl ester with lithium aluminum hydride (1.5 eq.) in THF at RT, aqueous work-up and purification by column chromatography yielded the title compound as a light orange oil, MS: m/e=406.2 (M+H+).

reactant | (2RS,5RS)-5-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-pentanoic acid methyl ester | COC(CCCCC1N(C(CC1)C1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)C)=O | C23H28FNO4S
reactant | lithium aluminum hydride | 1.5 eq. | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | C1CCOC1 | C4H8O
product | (2RS,5RS)-5-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-pentan-1-ol | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CCCCCO | C22H28FNO3S
